US05744600
Trans-1-Diethylphosphonomethoxy-4-phenylsulfinylcyclopent-2-ene
Trans-1-diethylphosphonomethoxycyclopent-2-en-4-ol (0.4 g; 1.6 mmol) was dissolved in CH2Cl2 (6 mL) and cooled to 0° C. in an icebath under a nitrogen atmosphere. Triethylamine (0.3 g; 2.9 mmol) was then added followed by a solution of toluenesulfinyl chloride (0.4 g, 2.9 mmol)in CH2Cl2 (2 mL). The reaction mixture was stirred at 0° C. for 1 hr. The ice bath was removed and the reaction mixture concentrated in vacuo. The residual oil was purified by flash column chromotography with 2% methanol/98% dichloromethane as eluent. The product(0.54 g; 87%) was isolated as a colorless oil.

reactant | Trans-1-diethylphosphonomethoxycyclopent-2-en-4-ol | 1.6 mmol, 0.4 g | C(C)OP(=O)(OCC)CO[C@@H]1C=C[C@H](C1)O | C10H19O5P
reactant | Triethylamine | 2.9 mmol, 0.3 g | C(C)N(CC)CC | C6H15N
reactant | toluenesulfinyl chloride | 2.9 mmol, 0.4 g | C=1(C(=CC=CC1)S(=O)Cl)C | C7H7ClOS
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | Trans-1-Diethylphosphonomethoxy-4-phenylsulfinylcyclopent-2-ene | C(C)OP(=O)(OCC)CO[C@@H]1C=C[C@H](C1)S(=O)C1=CC=CC=C1 | C16H23O5PS
